US06455550B1
Preparation of 1-(2-Methoxyethyl)cyclopentane Carboxylic Acid
To a solution of 1-(2-methoxyethyl)cyclopentane carboxylate methyl ester (7.987 g, 42.9 mmol) in a mixture of THF (170 mL) and methanol (170 mL) was added 1 N sodium hydroxide (170 mL). The mixture was heated to 40° C. for 2 h at which point TLC (ether:hexane 1:1, iodine chamber) analysis indicated the absence of starting material and the mixture was cooled to room temperature. The solvent was removed under vacuum and the residue was diluted with water (100 mL) and was extracted with ether (2×200 mL) to remove any neutral impurities. The basic aqueous layer was acidified with 1 N hydrochloric acid and the product was extracted with ethyl acetate (2×100 mL). The combined extracts were washed with brine solution and dried over sodium sulfate. After filtration of the drying agent, the solution was concentrated under vacuum and the residue was dried under high vacuum to afford 6.183 g (82%) of a light brown oil. HR MS (C9H16O3): Obs. mass, 172.0154. Calcd. mass, 172.0126 (M+).

reactant | 1-(2-methoxyethyl)cyclopentane carboxylate methyl ester | 42.9 mmol, 7.987 g | COC(=O)C1(CCCC1)CCOC | C10H18O3
reactant | sodium hydroxide | 1 N, 170 mL | [OH-].[Na+]
reactant | ether hexane | CCOCC.CCCCCC
reactant | iodine | II | I2
solvent | THF | 170 mL | C1CCOC1 | C4H8O
solvent | methanol | 170 mL | CO | CH4O
product | 1-(2-Methoxyethyl)cyclopentane Carboxylic Acid | 6.183 g, 82% | COCCC1(CCCC1)C(=O)O | C9H16O3
